US04111850
3-Amino-N-ethylcarbazole.
A solution of 10.2 g of 3-nitro-N-ethylcarbazole (42.5 mmol) and 38.4 g of stannous chloride dihydrate (170 mmol) in 100 ml of concentrated hydrochloric acid was heated for 3 hours at 92° C. The ice cooled solution was (cautiously) made basic by partial addition of a solution of 75 g sodium hydroxide in 150 ml of water. The product was filtered off and washed with the above base solution, followed by copious amounts of water, and then air dried. Vacuum drying and recrystallization from pyridine/water gave 7.4 g light-green needles (82% yield) mp b 109°-11° C.

reactant | 3-nitro-N-ethylcarbazole | 42.5 mmol, 10.2 g | [N+](=O)([O-])C=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H12N2O2
reactant | sodium hydroxide | 75 g | [OH-].[Na+]
solvent | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 3-Amino-N-ethylcarbazole | 7.4 g, 82% yield | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
